US05183587
(ii) Preparation of trans-1-(E-2-fluoro-1-ethenyl)-4-(trans-4-propylcyclohexyl)cyclohexane
To trans-1-(2,2-difluoro-1-ethenyl)-4-(trans-4-propylcyclohexyl)cyclohexane (44.0 g, 0.16 mol) were added toluene (250 ml) and a 70 wt. % toluene solution of sodium bis(2-methoxyethoxy)aluminum hydride (120 ml), followed by reacting the mixture under reflux on heating with stirring for 15 hours, cooling the reaction mixture, pouring it in ice water (300 ml), extracting the resulting product with toluene (300 ml), three times washing with 6N-hydrochloric acid (300 ml), washing with water till the aqueous layer became neutral, drying the toluene solution over anhydrous magnesium sulfate, filtering off the drying agent, distilling off toluene, dissolving the residue in heptane, purifying according to silica gel chromatography, repeating crystallization from hexane solvent and drying to obtain the objective substance (2.1 g, 0.008 mol). This compound exhibited a CS point of -13° C., an SN point of 43° C. and an NI point of 80° C.

reactant | trans-1-(2,2-difluoro-1-ethenyl)-4-(trans-4-propylcyclohexyl)cyclohexane | 0.16 mol, 44.0 g | FC(=C[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC)F | C17H28F2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 120 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | trans-1-(E-2-fluoro-1-ethenyl)-4-(trans-4-propylcyclohexyl)cyclohexane | F/C=C/[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C17H29F
